US07834043B2
3-[(aminocarbonyl)amino]-N-(methoxycarbonyl)-L-alanine
A solution of 2-amino-3-ureido-propionic acid (0.147 g, 1.0 mmol) in 1,4-dioxane (1.0 mL) and 1 N NaOH (3.6 mL) was treated with methyl chloroformate (0.153 mL, 2.0 mmol), stirred at 60° C. for 7 hours, and extracted with dichloromethane. The aqueous phase was acidified to pH 7 with 1 N HCl and evaporated to dryness. The resulting solid was trituated with 3:1 dichloromethane/isopropanol, filtered, and the filtrate was concentrated to yield a white solid (0.11 g, 53.6%) which was used for the next step without further purification.

reactant | 2-amino-3-ureido-propionic acid | 1.0 mmol, 0.147 g | NC(C(=O)O)CNC(=O)N | C4H9N3O3
reactant | methyl chloroformate | 2.0 mmol, 0.153 mL | ClC(=O)OC | C2H3ClO2
solvent | 1,4-dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
solvent | NaOH | 1 N, 3.6 mL | [OH-].[Na+]
product | 3-[(aminocarbonyl)amino]-N-(methoxycarbonyl)-L-alanine | 0.11 g, 53.6% | NC(=O)NC[C@H](NC(=O)OC)C(=O)O | C6H11N3O5
